US06531491B1
[2-(4-Bromo-2-methoxy-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane (2.6 g, 7.5 mmol) was stirred in dry THF (10 mL) at −78° C. under argon. n-Butyllithium (3.75 mL, 2.5 M in hexanes, 9.36 mmol) was added dropwise, and the reaction stirred for 30 min before it was transferred via cannula to a flask of trimethyl borate (8.4 mL, 75 mmol) in THF (15 mL), which was also stirring at −78° C. under argon. After addition was complete, the reaction stirred 30 min at −78° C. and then 30 min while warming to 0° C. It was then quenched with H2O (20 mL), acidified with 0.1 N HCl, and extracted with ethyl acetate (2×25 mL). Organics were washed with brine (20 mL), dried (Na2SO4), and concentrated in vacuo. Purification by silica gel chromatography (20% to 50% ethyl acetate/hexanes) gave 1.11 g (47%) of 5-methoxy-2-methyl-4-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid as a white solid. 1H NMR (300 MHz, CDCl3) δ 7.78 (s, 1H), 7.10 (s, 1H), 5.36 (s, 2H), 3.93 (s, 3H), 3.83 (t, 2H, J=8.4 Hz), 2.79 (s, 3H), 0.98 (t, 2H, J=8.4 Hz), 0.01 (s, 9H). Anal. (C14H25BO5Si—H2O) C, H. Calculated: C, 57.15; H, 7.88. Found: C, 56.89; H, 7.87.

reactant | [2-(4-Bromo-2-methoxy-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane | 7.5 mmol, 2.6 g | BrC1=CC(=C(OCOCC[Si](C)(C)C)C=C1C)OC | C14H23BrO3Si
reactant | n-Butyllithium | 9.36 mmol, 2.5 M, 3.75 mL | C(CCC)[Li]
reactant | trimethyl borate | 75 mmol, 8.4 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-methoxy-2-methyl-4-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid | 1.11 g, 47% | COC=1C(=CC(=C(C1)B(O)O)C)OCOCC[Si](C)(C)C | C14H25BO5Si
